US06913865B2
Preparation of t-butyl [3-(t-butyloxydimethoxysilyl)propyl]acetate
To a 1.5 M solution of LDA.THF in cyclohexane (200.00 mL, 300.00 mmol) and THF (400 mL), cooled to −78° C. in a dry ice/acetone bath, t-butyl acetate (34.85 g, 300.00 mmol) was added dropwise over 15 min. After 1 h at −78° C., 3-iodopropyltrimethoxysilane (43.53 g, 150.00 mmol) was added dropwise over 15 min. The reaction mixture was allowed to stir at −78° C. for 1 h, sealed with a teflon stopper, and kept in a freezer at −15° C. for 3 days. The cold reaction mixture was vacuum filtered through silica gel (500 mL), eluted with 1:1 hexanes/THF (1000 mL), and concentrated to provide 60.10 g of a pale yellow oil. A quick distillation produced the volatile components, and 27.14 g of a colorless oil was recovered: bp 80-110° C. (0.7-1.0 mm). This material was purified by fractional distillation to provide 14.39 g (30%) of a colorless oil: bp 75-6° C. (0.06 mm); 1H NMR (CDCl3) δ 3.53 (s, OMe), 2.22 (t, CHcCO), 1.63 (quinet, CH2), 1.45 (m, CH2), 1.45 (s, tBuO), 1.31 (s, tBu), 0.62 (m, CH2Si).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 300.00 mmol, 200.00 mL | C1CCCCC1 | C6H12
reactant | t-butyl acetate | 300.00 mmol, 34.85 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 3-iodopropyltrimethoxysilane | 150.00 mmol, 43.53 g | ICCC[Si](OC)(OC)OC | C6H15IO3Si
reactant | THF | 400 mL | C1CCOC1 | C4H8O
product | t-butyl [3-(t-butyloxydimethoxysilyl)propyl]acetate | 60.10 g | C(C)(C)(C)O[Si](CCCCC(=O)OC(C)(C)C)(OC)OC | C15H32O5Si
